US09085570B2
Step 1: Synthesis of tert-butyl 4-thioxopiperidine-1-carboxylate
Hydrogen sulfide gas was bubbled into a solution of tert-butyl 4-oxopiperidine-1-carboxylate (2 g, 10.05 mmol, 1.00 equiv) in isopropanol (20 mL) contained in a 100-mL 3-necked round-bottom flask. The resulting solution was stirred at room temperature for 2 h. The reaction mixture was concentrated and the crude product was used in the next step directly without purification.

reactant | Hydrogen sulfide | S | H2S
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 10.05 mmol, 2 g, 1.00 equiv | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
solvent | isopropanol | 20 mL | C(C)(C)O | C3H8O
product | tert-butyl 4-thioxopiperidine-1-carboxylate | S=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO2S
